US04769461
(A) Methyl-3-[(2-quinolinyl)methoxy]benzeneacetate
A mixture of methyl-3-hydroxyphenyl acetate (14.1 g, 85.0 mmol), chloromethylquinoline (15.1 g, 85.0 mmol), cesium carbonate (29.0 g) and acetone (300 ml) is refluxed for 40 hours. The mixture is filtered through Celite and silica gel and the solvent is removed in vacuo to give 25.4 g (97% yield) of oil.

reactant | methyl-3-hydroxyphenyl acetate | 85.0 mmol, 14.1 g | C(C)(=O)OC1=C(C(=CC=C1)O)C | C9H10O3
reactant | chloromethylquinoline | 85.0 mmol, 15.1 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | cesium carbonate | 29.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetone | 300 ml | CC(=O)C | C3H6O
product | Methyl-3-[(2-quinolinyl)methoxy]benzeneacetate | 25.4 g, 97% yield | COC(CC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C19H17NO3
